US09029392B2
2-Amino-3-(trifluoromethyl)benzaldehyde
Manganese dioxide (27 g, 0.32 mol) was added to a solution of [2-amino-3-(trifluoromethyl)phenyl]methanol (12.0 g, 0.063 mol) in DCM (150 mL) and the mixture was stirred for 18 h at room temperature. After this time, more manganese dioxide (27 g, 0.32 mol) was added, and the reaction mixture was left for a further 18 h. The reaction mixture was filtered through Celite, then the solvent was removed in vacuo to afford the title compound (9.5 g, 80%) as an orange oil. δH (DMSO-d6) 9.93 (s, 1H), 7.68 (m, 2H), 6.82 (m, 3H).

reactant | [2-amino-3-(trifluoromethyl)phenyl]methanol | 0.063 mol, 12.0 g | NC1=C(C=CC=C1C(F)(F)F)CO | C8H8F3NO
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | Manganese dioxide | 0.32 mol, 27 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 0.32 mol, 27 g | [O-2].[O-2].[Mn+4]
product | 2-Amino-3-(trifluoromethyl)benzaldehyde | 9.5 g, 80% | NC1=C(C=O)C=CC=C1C(F)(F)F | C8H6F3NO
